US07241887B2
3-Benzyl-8,8-dimethoxy-3-aza-bicyclo[3.2.1]octane
3-Benzyl-8,8-dimethoxy-3-aza-bicyclo[3.2.1]oct-6-ene (51.8 g, 0.2 mol) was dissolved in EtOAc (100 mL) in a 500 mL Parr bottle. To this was added 20% Pd(OH)2/C (Degussa type, 2.60 g) and the mixture was shaken under 45 psi of H2 for 4 h (or judged complete by TLC). The reaction was filtered through a Celite pad, rinsed with EtOAc, and concentrated to a brown liquid (50.4 g, 97%). (TLC 30% EtOAc/hexanes Rf 0.63); 1H NMR (400 MHz, CDCl3) δ 7.33–7.17 (5H), 3.51 (s, 2H), 3.22 (s, 3H), 3.16 (s, 3H), 2.50 (AB dd, J=10.4, 3.7 Hz, 2H), 2.40 (AB d, J=10.4 Hz, 2H), 2.04 (br s, 2H), 1.70–1.64 (m, 4H); APCI MS m/z 262.3 (M+1)+.

reactant | 3-Benzyl-8,8-dimethoxy-3-aza-bicyclo[3.2.1]oct-6-ene | 0.2 mol, 51.8 g | C(C1=CC=CC=C1)N1CC2C=CC(C1)C2(OC)OC | C16H21NO2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OH)2/C | 2.60 g | [OH-].[OH-].[Pd+2]
product | 3-Benzyl-8,8-dimethoxy-3-aza-bicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1CC2CCC(C1)C2(OC)OC | C16H23NO2
